* C:\Users\Public\Documents\Altium\Projects\SW8E-StandaloneLeakDetector\LTSpiceSim.asc
M1 LEAK_OUT N002 N001 N001 QS6J11
R1 N002 N001 1e6
V1 N001 0 3
R2 LEAK_OUT 0 10k
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\mbehe\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1s
.model QS6J11 VDMOS(pchan Vds=-12 Ron=105m Qg=1.3n)
* LEAK_IN
.backanno
.end
